US09238639B2
A) Ethyl 2-acetyl-5,5,5-trifluoro-4-oxopentanoate
To a mixture of ethyl acetoacetate (3.98 mL) in THF (dry) (50 mL) was added NaH (1.571 g) at 0° C., and the mixture was stirred for 30 min at the same temperature. To the mixture was added 3-bromo-1,1,1-trifluoroacetone (5 g) 0° C., and the mixture was stirred for 3 h. The mixture was poured into brine at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (1.570 g).

reactant | ethyl acetoacetate | 3.98 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NaH | 1.571 g | [H-].[Na+]
reactant | 3-bromo-1,1,1-trifluoroacetone | 5 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | Ethyl 2-acetyl-5,5,5-trifluoro-4-oxopentanoate | 1.570 g | C(C)(=O)C(C(=O)OCC)CC(C(F)(F)F)=O | C9H11F3O4
